US03975443
1-(1-Aminomethylcyclohexyl)-4-methylpiperazine (0.5 g) was added to 10% sodium hydroxide solution (10 ml) and p-toluene sulphonyl chloride (0.5 g), and the mixture shaken vigorously. The solid was filtered, washed with water and recrystallised from 95% ethanol to give colourless needles (0.4 g, 46.2%) of 1-(1-tosylaminomethylcyclohexyl)-4-methyl piperazine, m.p. 128°-130°.

reactant | 1-(1-Aminomethylcyclohexyl)-4-methylpiperazine | 0.5 g | NCC1(CCCCC1)N1CCN(CC1)C | C12H25N3
reactant | p-toluene sulphonyl chloride | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | 1-(1-tosylaminomethylcyclohexyl)-4-methyl piperazine | 0.4 g, 46.2% | S(=O)(=O)(C1=CC=C(C)C=C1)NCC1(CCCCC1)N1CCN(CC1)C | C19H31N3O2S
